US04728658
N-(4-chlorophenyl)-4-pyridinecarboxamide-1-oxide
1,1'-Carbonyldiimidazole (3.829 g, 23.6 mmol) was added to a suspension of 4-pyridinecarboxylic acid-1-oxide (2.986 g, 21.5 mmol) in dry dimethylformamide (50 ml) and the resulting solution was stirred for 45 minutes and treated with a solution of 4-chlorobenzenamine (3.012 g, 23.6 mmol) in dry dimethylformamide (20 ml). After 18 hours, the solution was evaporated in vacuo to give an oil which slowly solidified. The solid was recrystallised from ethyl acetate-cyclohexane and suspended in saturated aqueous sodium bicarbonate solution. The mixture was stirred vigorously for 20 minutes, filtered, and the crystals washed with water (3×10 ml) and ethanol (3×10 ml) and dried in vacuo to give the title compound as a quarter hydrate (1.614 g), m.p. 247°-249°.

reactant | 1,1'-Carbonyldiimidazole | 23.6 mmol, 3.829 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-pyridinecarboxylic acid-1-oxide | 21.5 mmol, 2.986 g | [N+]1(=CC=C(C=C1)C(=O)O)[O-] | C6H5NO3
reactant | 4-chlorobenzenamine | 23.6 mmol, 3.012 g | ClC1=CC=C(C=C1)N | C6H6ClN
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-(4-chlorophenyl)-4-pyridinecarboxamide-1-oxide | ClC1=CC=C(C=C1)NC(=O)C1=CC=[N+](C=C1)[O-] | C12H9ClN2O2
